US08304577B2
To a solution of (2S)-N-((1R)-2-azido-1-(4-(2-methylpentyloxy)phenyl)ethyl)-2-phenylpropanamide (12.0 g, 30.4 mmol) in ethanol (40 mL) in a Parr shaker bottle was added 10% Pd/C (3.0 g, 2.82 mmol, Degussa type). The reaction mixture was placed under an H2 atmosphere at 40 psi for 1 h. The mixture was then filtered through a pad of diatomaceouse earth (Celite®) and the filtrate was concentrated. The residue was purified by column chromatography on silica gel (10% methanol in dichloromethane) to afford (2S)-N-((1R)-2-amino-1-(4-(2-methylpentyloxy)phenyl)ethyl)-2-phenylpropanamide (7.0 g, 63% yield) as an off-white solid: 1H NMR (400 MHz, DMSO-d6) δ 8.22 (d, J=8.1 Hz, 1H), 7.22-7.31 (m, 4H), 7.13-7.22 (m, 1H), 6.99 (d, 2H), 6.74 (d, 2H), 4.56-4.70 (m, 1H), 3.69-3.79 (m, 2H), 3.65 (dd, J=9.3, 6.5 Hz, 1H), 3.34 (br. s., 2H), 2.61-2.75 (m, 2H), 1.83 (dddd, J=12.5, 6.5, 6.4, 6.3 Hz, 1H), 1.33-1.36 (m, 3H), 1.24-1.48 (m, 3H), 1.10-1.20 (m, 1H), 0.93 (d, J=6.8 Hz, 3H), 0.87 (t, J=7.1 Hz, 3H); LRMS (ESI) m/e 369.2 [(M+H)+, calcd for C23H33N2O2 369.3].

reactant | (2S)-N-((1R)-2-azido-1-(4-(2-methylpentyloxy)phenyl)ethyl)-2-phenylpropanamide | 30.4 mmol, 12.0 g | N(=[N+]=[N-])C[C@@H](C1=CC=C(C=C1)OCC(CCC)C)NC([C@@H](C)C1=CC=CC=C1)=O | C23H30N4O2
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | Pd/C | 2.82 mmol, 3.0 g | [Pd] | Pd
product | (2S)-N-((1R)-2-amino-1-(4-(2-methylpentyloxy)phenyl)ethyl)-2-phenylpropanamide | 7.0 g, 63% yield | NC[C@@H](C1=CC=C(C=C1)OCC(CCC)C)NC([C@@H](C)C1=CC=CC=C1)=O | C23H32N2O2
